US08383820B2
Ammonium formate (10 g, 0.15 mol) was added to a solution of 5-hydroxyadamantan-2-one (4.5 g, 0.027 mol, prepared as described in Tetrahedron 1968, 24, 5369) in MeOH (50 ml). Then 10% Pd—C (500 mg) was added carefully and the solution heated under reflux for 1 h. It was then filtered through celite and to this filtrate at 0° C. was added triethylamine (11.2 ml, 0.081 mol) and Boc anhydride (7.06 g, 0.0324 mol). The solution was stirred for 4 h at 20° C. and then concentrated under reduced pressure. The residue was diluted with water and extracted with EtOAc. The organic layer was dried and concentrated to give (5-hydroxyadamantan-2-yl)carbamic acid tert-butyl ester (7 g, 96%). LC-MS (m/z): 168 (M+1). 1HNMR (300 MHz, DMSO-d6): δ 6.8 (d, 1H), 6.7 (brs, 1H), 3.45 (d, 1H), 2.0 (s, 1H), 1.75-1.95 (m, 4H), 1.5-1.7 (m, 6H), 1.35 (s, 9H), 1.25 (t, 2H).

reactant | Ammonium formate | 0.15 mol, 10 g | C(=O)[O-].[NH4+]
reactant | 5-hydroxyadamantan-2-one | 0.027 mol, 4.5 g | OC12CC3C(C(CC(C1)C3)C2)=O | C10H14O2
reactant | triethylamine | 0.081 mol, 11.2 ml | C(C)N(CC)CC | C6H15N
reactant | Boc anhydride | 0.0324 mol, 7.06 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 50 ml | CO | CH4O
catalyst | Pd—C | 500 mg | [Pd] | Pd
product | (5-hydroxyadamantan-2-yl)carbamic acid tert-butyl ester | 7 g, 96% | C(C)(C)(C)OC(NC1C2CC3CC(CC1C3)(C2)O)=O | C15H25NO3
